US09102899B2
Benzyl cyanide (50.0 g, 0.43 mol) is dissolved in a mixture of acetone (150 ml) and methanol (20 ml) and then KOH (10 g, 0.15 mol) is added under stirring. After complete dissolution the brown mixture is heated to 65° C. (oil bath) during 90 min. The mixture is concentrated in a rotary evaporator, the residue is dissolved in toluene and washed 3 times with half saturated aq. NaCl-solution. The organic layer is dried over MgSO4, the solvent removed under reduced pressure and the residue distilled over a short-path apparatus at 0.07 mbar. The fraction distilling at 77° C. is collected (33 g) and subjected to a fine distillation over a Widmer-column to yield 31.3 g (47%) of 3-methyl-2-phenyl-but-2-ene nitrile as colourless oil (b.p. 85° C./0.05 mbar).

reactant | Benzyl cyanide | 0.43 mol, 50.0 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | KOH | 0.15 mol, 10 g | [OH-].[K+]
reactant | acetone | 150 ml | CC(=O)C | C3H6O
solvent | methanol | 20 ml | CO | CH4O
product | 3-methyl-2-phenyl-but-2-ene nitrile | 31.3 g, 47% | CC(=C(C#N)C1=CC=CC=C1)C | C11H11N
